US05834434
N-BOC-4-amino-3-methoxybenzoic acid
4-amino-3-methoxybenzoic acid (1 g, 5.98 mmol) was reacted with di-t-butyl dicarbonate (1.96 g, 6.58 mmol) in dioxane (12 ml) and 0.5M NaOH (12 ml) according to the same procedure as N-BOC-4-aminobenzoic acid. 1.50 g (93.7%) of tan crystals were obtained after recrystallization from ethyl acetate and hexanes. mp 176°-178° C.; 1H NMR (CD3OD) 1.52 (9 H, s), 3.92 (3 H, s), 7.56 (1 H, s), 7.62 (1 H, d, J=8.4 Hz), 7.96 (1 H, s), 8.03 (1 H, d, J=8.4 Hz); 13C NMR (CD3OD) 28.53, 56.35, 81.78, 112.01, 118.58, 124.20, 125.76, 133.84, 149.04, 154.20, 169.60; HRMS calc. for C13H17NO5 267.1107; found, 267.1103.

reactant | 4-amino-3-methoxybenzoic acid | 5.98 mmol, 1 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | di-t-butyl dicarbonate | 6.58 mmol, 1.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-BOC-4-aminobenzoic acid | C(=O)(OC(C)(C)C)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 0.5M, 12 ml | [OH-].[Na+]
product | N-BOC-4-amino-3-methoxybenzoic acid | 1.50 g, 93.7% | C(=O)(OC(C)(C)C)NC1=C(C=C(C(=O)O)C=C1)OC | C13H17NO5
